US08685969B2
2. Ethyl 3-(4-bromo-7-carbamoyl-1H-indol-3-yl)-2-nitropropanoate
Methyl propiolate (2.300 mL, 27.5 mmol) was added slowly to a suspension of crude 4-bromo-3-((dimethylamino)methyl)-1H-indole-7-carboxamide (6.27 g, 21.17 mmol) and ethyl 2-nitroacetate (3.66 g, 27.5 mmol) in dichloromethane (151 mL) and acetonitrile (151 mL). After 30 min, the mixture was concentrated and partitioned between EtOAc and 1 M aqueous HCl. The organic phase was washed with NaHCO3 (aq) and brine, dried and concentrated. The residue was coated subjected to column chromatography on silica gel (80 g), eluting with EtOAc-hexane (gradient from 50:50 to 80:20) to provide the desired product as a solid (4.60 g, 57% yield). LCMS (M+H)+ m/z 383.8, 385.8.

reactant | Methyl propiolate | 27.5 mmol, 2.300 mL | C(C#C)(=O)OC | C4H4O2
reactant | 4-bromo-3-((dimethylamino)methyl)-1H-indole-7-carboxamide | 21.17 mmol, 6.27 g | BrC1=C2C(=CNC2=C(C=C1)C(=O)N)CN(C)C | C12H14BrN3O
reactant | ethyl 2-nitroacetate | 27.5 mmol, 3.66 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
solvent | dichloromethane | 151 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 151 mL | C(C)#N | C2H3N
product | Ethyl 3-(4-bromo-7-carbamoyl-1H-indol-3-yl)-2-nitropropanoate | 4.60 g, 57% yield | BrC1=C2C(=CNC2=C(C=C1)C(N)=O)CC(C(=O)OCC)[N+](=O)[O-] | C14H14BrN3O5
